US05703087
5-Chloro-1-(4-fluorophenyl)-3-[1-(2-ureidoethyl)piperidin-4-yl]-1H-indol, 7c
Potassium cyanate (4.9 g) was suspended in dichloromethane (50 ml) followed by dropwise addition of trifluoroacetic acid (4.4 ml) at 0° C. A solution of 3-[1-(2-aminoethyl)piperidin-4-yl]-5-chloro-1-(4-fluorophenyl)-1H-indol (10.8 g) (Pat. Appl. No. WO 9215302, Chem. Abstr. 117 (1992) 247029) in dichloromethane (100 ml) was added dropwise followed by stirring for 6 h at room temperature. Water (100 ml) was added and the reaction mixture made alkaline with conc. ammonia. The phases were separated followed by extraction with dichloromethane. The combined organic phases were dried over magnesium sulfate. Removal of solvent in vacuo gave a heavy oil which was purified by flash chromatography (silica gel, eluent: triethylamine/methanol/ethyl acetate 5:20:75). The title compound was isolated as a crystalline material, mp. 161°-63° C. Yield: 7.9 g.

reactant | Potassium cyanate | 4.9 g | [O-]C#N.[K+]
reactant | trifluoroacetic acid | 4.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-[1-(2-aminoethyl)piperidin-4-yl]-5-chloro-1-(4-fluorophenyl)-1H-indol | 10.8 g | NCCN1CCC(CC1)C1=CN(C2=CC=C(C=C12)Cl)C1=CC=C(C=C1)F | C21H23ClFN3
reactant | ammonia | N | H3N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | Water | 100 ml | O | H2O
product | 5-Chloro-1-(4-fluorophenyl)-3-[1-(2-ureidoethyl)piperidin-4-yl]-1H-indol | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C1CCN(CC1)CCNC(=O)N | C22H24ClFN4O
